US05078748
(A). Preparation of 4-((2-methoxyethyl)oxy)-5-trifluoromethyl-1,3-dinitrobenzene
27 g of 4-chloro-5-trifluoromethyl-1,3-dinitrobenzene are initially introduced into 36.5 g of ethylene glycol monomethyl ether, and 13.2 g of 50 percent strength aqueous sodium hydroxide solution are added dropwise at 60° C. in the course of 30 minutes. The mixture is then subsequently stirred at 70° C. for two hours, a further 12 g of ethylene glycol monomethyl ether and 4.5 g of sodium hydroxide solution are added, the mixture is subsequently stirred at 70° C. for a further two hours and 100 ml of water are then added. The oil which has separated out is separated off, washed twice with 30 ml of water each time and dried. This gives 17.6 g (57% of the theoretical value) of yellowish oil.

reactant | 4-chloro-5-trifluoromethyl-1,3-dinitrobenzene | 27 g | ClC1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C7H2ClF3N2O4
reactant | ethylene glycol monomethyl ether | 36.5 g | COCCO | C3H8O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylene glycol monomethyl ether | 12 g | COCCO | C3H8O2
reactant | sodium hydroxide | 4.5 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-((2-methoxyethyl)oxy)-5-trifluoromethyl-1,3-dinitrobenzene | COCCOC1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C10H9F3N2O6
